### ISSUE TITLE
Unsilenceable warnings and deep recursion on large exponents

### ISSUE THREAD

**Issue by Parcly-Taxel** [leanprover/lean4#11713]
### Prerequisites

* [X] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [X] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [X] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

In leanprover-community/mathlib4#31315 one of the key steps in solving IMO 2010 Q5 is a power tower inequality. All my attempts at proving the inequality directly, however, trigger an exponentiation warning that cannot be silenced, or the error `(kernel) deep recursion detected`. This issue is general, not limited to the exponents involved in that IMO problem.

### Steps to Reproduce

The following code without any imports produces a warning at the `Nat.pow_mul` that cannot be silenced:
```
exponent 2010 exceeds the threshold 256, exponentiation operation was not evaluated, use `set_option exponentiation.threshold <num>` to set a new threshold
```
If `simp only [Nat.reducePow]` is added before the `calc` blocks, the error `(kernel) deep recursion detected` appears additionally. In mathlib the deep recursion error also appears with `import Mathlib.Algebra.Group.Nat.Defs`, but _not_ with `import Mathlib.Algebra.Group.Defs` (which is the former file's sole import).

```lean
theorem tower_inequality : 2010 ^ 2010 ^ 2010 ≤ 2 ^ 2 ^ 2 ^ 2 ^ 2 ^ 11 := by
  calc
    _ ≤ 2 ^ (11 * 2010 ^ 2010) := by
      rw [Nat.pow_mul, Nat.pow_le_pow_iff_left <| Nat.ne_of_gt (Nat.pow_pos (by decide))]
      decide
    _ ≤ _ := Nat.pow_le_pow_right Nat.zero_lt_two ?_
  calc
    _ ≤ 2 ^ (4 + 11 * 2010) := by
      rw [Nat.pow_add, Nat.pow_mul]
      exact Nat.mul_le_mul (by decide) (Nat.pow_le_pow_left (by decide) _)
    _ ≤ _ := Nat.pow_le_pow_right Nat.zero_lt_two ?_
  calc
    _ ≤ 2 ^ 2 ^ 2 ^ 2 := by decide
    _ ≤ _ := by
      iterate 3 apply Nat.pow_le_pow_right Nat.zero_lt_two
      decide
```

### Versions

Lean 4.28.0-nightly-2025-12-16
Target: x86_64-unknown-linux-gnu

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by nomeata** [comment]
You can fix the proof if in every step, you use `generalize` to make the goal more abstract, this prevents lean from trying to evaluate ground terms:

```
theorem tower_inequality : 2010 ^ 2010 ^ 2010 ≤ 2 ^ 2 ^ 2 ^ 2 ^ 2 ^ 11 := by
  calc
    _ ≤ 2 ^ (11 * 2010 ^ 2010) := by
      generalize h : 2010 ^ 2010 = p
      rw [Nat.pow_mul, Nat.pow_le_pow_iff_left <| Nat.ne_of_gt (by subst h; apply Nat.pow_pos (by decide))]
    _ ≤ _ := Nat.pow_le_pow_right Nat.zero_lt_two ?_
  calc
    _ ≤ 2 ^ (4 + 11 * 2010) := by
      generalize h : 2010 = p
      rw [Nat.pow_add, Nat.pow_mul]
      exact Nat.mul_le_mul (by decide) (Nat.pow_le_pow_left (by subst h; decide) _)
    _ ≤ _ := Nat.pow_le_pow_right Nat.zero_lt_two ?_
  calc
    _ ≤ 2 ^ 2 ^ 2 ^ 2 := by decide
    _ ≤ _ := by
      iterate 3 apply Nat.pow_le_pow_right Nat.zero_lt_two
      decide
```

**Comment by Parcly-Taxel** [comment]
@nomeata It works in isolation, but when I copy your code into my PR `(kernel) deep recursion detected` reappears. See [#mathlib4 > Deep recursion in mathlib but not in lean core @ 💬](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Deep.20recursion.20in.20mathlib.20but.20not.20in.20lean.20core/near/564301541)

**Comment by nomeata** [comment]
JFTR: I responded in that thread, the issue seems to be an instance diamond caused by 
```
instance instCommMonoid : CommMonoid ℕ
```
and can be (at least for this instance) worked-around by
```diff
--- a/Mathlib/Algebra/Group/Nat/Defs.lean
+++ b/Mathlib/Algebra/Group/Nat/Defs.lean
@@ -46,10 +46,29 @@ instance instCommMonoid : CommMonoid ℕ where
   one_mul := Nat.one_mul
   mul_one := Nat.mul_one
   mul_comm := Nat.mul_comm
-  npow m n := n ^ m
+  npow m n := Nat.pow n m
   npow_zero := Nat.pow_zero
   npow_succ _ _ := rfl
```

**Comment by nomeata** [comment]
The linked mathlib PR now succeeded, and it seems that on the Lean side things work as they should, so closing this.
